US07338958B2
Production of (RS)-N-(ethoxycarbonyl)-S-(4-{[5-iodo-4-(prop-2-in-1-ylamino)pyrimidin-2-yl]amino}phenyl)-S-methyl sulfoximide
400 mg (1.65 mmol) of (2-chloro-5-iodopyrimidin-4-yl)-prop-2-in-1-yl-amine and 630 mg (2.15 mmol) of (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl sulfoximide in 7 ml of acetonitrile are mixed with 0.6 ml of a 4N solution of HCl in dioxane and 1 ml of water. The batch is stirred for 24 hours at 50° C. The solvent is drawn off, and the remaining residue is purified by chromatography (DCM/EtOH 9:1). 279 mg (0.56 mmol, corresponding to 54% of theory) of the product is obtained.

reactant | (2-chloro-5-iodopyrimidin-4-yl)-prop-2-in-1-yl-amine | 1.65 mmol, 400 mg | ClC1=NC=C(C(=N1)NCC#C)I | C7H5ClIN3
reactant | (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl sulfoximide | 2.15 mmol, 630 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
reactant | HCl | Cl | ClH
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | (RS)-N-(ethoxycarbonyl)-S-(4-{[5-iodo-4-(prop-2-in-1-ylamino)pyrimidin-2-yl]amino}phenyl)-S-methyl sulfoximide | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC#C)I | C17H18IN5O3S
